US05629264
Step 2: Formation of 2-(2,6-dichloro-4-pyridyl)-6-ethyl-5-methoxycarbonyl-5,6-dihydropyrimidine-4-one
To 10.6 g (46.8 mmol) of 2,6-dichloropyridine-4-carboxamidine hydrochloride in 100 mL of dimethylformamide was added 4.62 g of sodium bicarbonate followed by 10 g (46.8 mmol) of 80% methyl 2-methyl-2-pentenoate. The reaction was stirred at room temperature overnight before pouring onto 300 mL of ice water. The resultant pale yellow precipitate was collected by vacuum filtration and yields 12.15 g (36.8 mmol, 79%) of desired product with mp=188°-189° C.

reactant | 2,6-dichloropyridine-4-carboxamidine hydrochloride | 46.8 mmol, 10.6 g | Cl.ClC1=NC(=CC(=C1)C(=N)N)Cl
reactant | sodium bicarbonate | 4.62 g | C([O-])(O)=O.[Na+]
reactant | methyl 2-methyl-2-pentenoate | 46.8 mmol, 10 g | CC(C(=O)OC)=CCC | C7H12O2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-(2,6-dichloro-4-pyridyl)-6-ethyl-5-methoxycarbonyl-5,6-dihydropyrimidine-4-one | 36.8 mmol, 12.15 g, 79% | ClC1=NC(=CC(=C1)C=1NC(C(C(N1)=O)C(=O)OC)CC)Cl | C13H13Cl2N3O3
